US04571394
N-[5-[[2-Hydroxy-3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazol-3-yl]acetamide hemihydrate
A solution of 1-[[3-(acetylamino)-1-methyl-1H-1,2,4-triazol-5-yl]amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol acetate (ester) (0.32 g) and 0.9M aqueous potassium hydroxide (1.0 ml) in ethanol (25 ml) was stirred for 0.5 h at 23°. The ethanol was evaporated, and the residue was suspended in sodium carbonate solution. This solution was extracted with methyl acetate. The extract was dried, and evaporated to give a gum, which was chromatographed using system A to give the title compound (0.25 g) as a white foam.

reactant | 1-[[3-(acetylamino)-1-methyl-1H-1,2,4-triazol-5-yl]amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol acetate | 0.32 g | C(C)(=O)OC(CNC1=NC(=NN1C)NC(C)=O)COC1=CC(=CC=C1)CN1CCCCC1 | C22H32N6O4
reactant | potassium hydroxide | 0.9M, 1.0 ml | [OH-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-[5-[[2-Hydroxy-3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazol-3-yl]acetamide hemihydrate | 0.25 g | O.OC(CNC1=NC(=NN1C)NC(C)=O)COC1=CC(=CC=C1)CN1CCCCC1.OC(CNC1=NC(=NN1C)NC(C)=O)COC1=CC(=CC=C1)CN1CCCCC1 | InChI=1S/2C20H30N6O3.H2O/c2*1-15(27)22-19-23-20(25(2)24-19)21-12-17(28)14-29-18-8-6-7-16(11-18)13-26-9-4-3-5-10-26;/h2*6-8,11,17,28H,3-5,9-10,12-14H2,1-2H3,(H2,21,22,23,24,27);1H2
